US08466282B2
5-(4-methoxybutyl)-2-methyl-1-phenyl-1H-imidazole-4-carboxylic acid
Methyl 5-(4-methoxybutyl)-2-methyl-1-phenyl-1H-imidazole-4-carboxylate (3.85 g) was dissolved in methanol (26 ml)-water (24 ml), lithium hydroxide monohydrate (800 mg) was added and the mixture was heated under reflux for 2 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was adjusted to pH=7 with 1M hydrochloric acid, subjected to DIAION HP-20 (manufactured by Mitsubishi Chemical), washed with water and a fraction eluted with acetone was concentrated under reduced pressure to give the object product (1.08 g).

reactant | Methyl 5-(4-methoxybutyl)-2-methyl-1-phenyl-1H-imidazole-4-carboxylate | 3.85 g | COCCCCC1=C(N=C(N1C1=CC=CC=C1)C)C(=O)OC | C17H22N2O3
reactant | lithium hydroxide monohydrate | 800 mg | O.[OH-].[Li+]
solvent | methanol | 26 ml | CO | CH4O
solvent | water | 24 ml | O | H2O
product | 5-(4-methoxybutyl)-2-methyl-1-phenyl-1H-imidazole-4-carboxylic acid | 1.08 g | COCCCCC1=C(N=C(N1C1=CC=CC=C1)C)C(=O)O | C16H20N2O3
